US06743789B2
5-(2,4-Dimethoxy-benzyl)-8-isopropyl-6-oxo-5,6-dihydro-4H-2,5,10b-triaza-benzo[e]azulene-3-carboxylic Acid Ethyl Ester
Hexamethyldisilazane (2.8 mL, 13.4 mmol) was dissolved in TBF (25 mL), cooled under Argon to −70° C., and treated slowly with a 1.6 M solution of n-BuLi in hexane (8.4 mL, 13.4 mmol). After stirring for 1 h at −70° C., a solution of (E)-(dimethylamino-methyleneamino)-acetic acid ethyl ester (1.28 g, 8.1 mmol) in THF (5 mL) was added, and stirring continued for 1 h at −70° C. Then a solution of 2-chloro-4-(2,4-dimethoxy-benzyl)-7-isopropyl-3,4-dihydro-benzo[e][1,4]diazepin-5-one (1.59 g, 4.1 mmol) (prepared as described above) was added at −70° C., and subsequently allowed to warm up to at 10° C. over 1 h, then cooled again to −30° C. After 30 min, acetic acid (3.0 mL) was added at −30° C. and the suspension was allowed to warm up to room temperature and water (3.0 mL) added and the resulting mixture heated under reflux for 14 h. After cooling, the mixture was evaporated and then dissolved in DCM (30 mL). This solution was then washed with HCl (1 M, 2×15 mL) and sodium hydrogen carbonate (sat., 10 ml), dried (Na2SO4) and evaporated. Chromatography on silica gel eluting with EtOAc:Hexane (19:1). Yield: 1.9 g (99%). m/z 464 (MH+).

reactant | Hexamethyldisilazane | 13.4 mmol, 2.8 mL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | n-BuLi | [Li]CCCC
reactant | hexane | 13.4 mmol, 8.4 mL | CCCCCC | C6H14
reactant | (E)-(dimethylamino-methyleneamino)-acetic acid ethyl ester | 8.1 mmol, 1.28 g | C(C)OC(C/N=C/N(C)C)=O | C7H14N2O2
reactant | 2-chloro-4-(2,4-dimethoxy-benzyl)-7-isopropyl-3,4-dihydro-benzo[e][1,4]diazepin-5-one | 4.1 mmol, 1.59 g | ClC=1CN(C(C2=C(N1)C=CC(=C2)C(C)C)=O)CC2=C(C=C(C=C2)OC)OC | C21H23ClN2O3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | 3.0 mL | O | H2O
solvent | acetic acid | 3.0 mL | C(C)(=O)O | C2H4O2
product | 5-(2,4-Dimethoxy-benzyl)-8-isopropyl-6-oxo-5,6-dihydro-4H-2,5,10b-triaza-benzo[e]azulene-3-carboxylic Acid Ethyl Ester | C(C)OC(=O)C=1N=CN2C3=C(C(N(CC12)CC1=C(C=C(C=C1)OC)OC)=O)C=C(C=C3)C(C)C | C26H29N3O5
